US07834019B2
1) Production of ethyl 2-(6-bromopyridin-2-yl)-2-methylpropionate
In a nitrogen atmosphere, 100 mL of tetrahydrofuran containing 14 mL of diisopropylamine was cooled in a dry ice-acetone bath, and 38 mL of 2.66 M n-butyllithium/hexane solution was added thereto to prepare lithium-diisopropylamide. This was dropwise added to 100 mL of tetrahydrofuran containing 4.55 mL of 6-bromopicoline and 6.06 mL of diethyl carbonate, at −60° C. or lower. After stirred for 20 minutes, 6.23 mL of methyl iodide was added thereto and heated up to room temperature. Water was added to the reaction liquid, extracted with diethyl ether, washed with saturated saline water, and dried with anhydrous magnesium sulfate. After concentrated under reduced pressure, the residue was purified through silica gel column chromatography (hexane/ethyl acetate=100/0 to 8/1) to obtain 10.72 g of the entitled compound as a colorless oily substance.

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium hexane | 2.66 M, 38 mL | C(CCC)[Li].CCCCCC
reactant | lithium diisopropylamide | [Li].C(C)(C)[N-]C(C)C
reactant | 6-bromopicoline | BrC1=CC=CC(=N1)C | C6H6BrN
reactant | diethyl carbonate | 6.06 mL | C(OCC)(OCC)=O | C5H10O3
reactant | methyl iodide | 6.23 mL | CI | CH3I
solvent | Water | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | ethyl 2-(6-bromopyridin-2-yl)-2-methylpropionate | 10.72 g | BrC1=CC=CC(=N1)C(C(=O)OCC)(C)C | C11H14BrNO2
